US08735435B2
Methyl magnesium iodide (29 μL, 0.085 mmol) was added dropwise to a solution of (4S,5R)-3-{[5′-acetyl-4′-fluoro-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (30 mg, 0.047 mmol) in diethyl ether (2 mL) at room temperature. The reaction was carefully heated at reflux 4 h. Additional methyl magnesium iodide (63 μL, 0.19 mmol) and ether (1 mL) was added and the reaction was refluxed for 3 h. The reaction was quenched with sat. NH4Cl and extracted with EtOAc (3×25 mL). The combined extracts were washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash silica gel chromatography (0-25% EtOAc/hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropenyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one as a clear glass. LCMS=636.3 (M+1)+. 1H NMR (benzene-d6, 500 MHz, mixture of atropisomers): δ 7.59 (s, 1 H), 7.55 (s, 1 H), 7.35 (d, J=8 Hz, 1 H), 7.30-7.27 (m, 2 H), 6.99-6.96 (m, 2 H), 6.45 (d, J=12.9 Hz, 1 H), 5.32 (d, J=16.9 Hz, 1 H), 5.16-5.15 (m, 1 H), 4.90 (d, J=16.3 Hz, 1 H), 4.48 (d, J=7.7 Hz, 1 H), 3.70 (d, J=6.4 Hz, 1 H), 3.16 (s, 3 H), 2.85-2.79 (m, 1 H), 2.12 (s, 3 H), −0.025 (d, J=6.5 Hz, 3 H).

reactant | Methyl magnesium iodide | 0.085 mmol, 29 μL | C[Mg]I
reactant | (4S,5R)-3-{[5′-acetyl-4′-fluoro-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.047 mmol, 30 mg | C(C)(=O)C=1C(=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)OC)F | C29H21F10NO4
reactant | methyl magnesium iodide | 0.19 mmol, 63 μL | C[Mg]I
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropenyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C(=C)C)F)OC)C)(F)F | C30H23F10NO3
